US04107308
6-n-Propyl-4-(methylthio)-imidazo[1,5-d]-as-triazine
A 3.98 gm. portion of 6-n-propyl-imidazo[1,5-d]-as-triazine-4(3H)-thione is added to a solution of 0.46 gm. of sodium in 15 ml. of methanol under nitrogen. A 1.56 ml. portion of methyl iodide is added. The reaction procedes as described in Example 30 giving the desired product, m.p. 132°-134° C.

reactant | 6-n-propyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | C(CC)C1=NC=C2N1C(NN=C2)=S | C8H10N4S
reactant | sodium | [Na] | Na
reactant | methyl iodide | CI | CH3I
solvent | methanol | CO | CH4O
product | 6-n-Propyl-4-(methylthio)-imidazo[1,5-d]-as-triazine | C(CC)C1=NC=C2N1C(=NN=C2)SC | C9H12N4S
